US07572819B2
N-{(2S)-5-[6-(trifluoromethyl)-3-pyridinyl]-2,3-dihydro-1H-inden-2-yl}-2-propanesulfonamide
To a solution of N-[(2S)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide (190 mg, 0.52 mmol) in dry 1,4 dioxane (5 ml), polymer supported Pd(PPh3)4 (10 mg, 0.5 mmol/g, 0.005 mmol) was added along with 5-bromo-2-(trifluoromethyl)pyridine (176 mg, 0.78 mmol) and 500 μl of a 2M Na2CO3 solution in water. The resulting mixture was heated at 90° degrees for 3 hours. Then after cooling the resin was removed by filtration and then the solvent was removed under reduced pressure. The residue was taken up with DCM, washed with water and loaded on a 25M+ silica cartridge eluating with a cyclohexane/AcOEt 75/25 mixture. 150 mg of title compound were recovered as whitish solid (75%). Due to the use of chiral Intermediate 7, the final compound is believed to be N-{(2S)-5-[6-(trifluoromethyl)-3-pyridinyl]-2,3-dihydro-1H-inden-2-yl}-2-propanesulfonamide.

reactant | N-[(2S)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide | 0.52 mmol, 190 mg | CC1(OB(OC1(C)C)C=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)C | C18H28BNO4S
reactant | 5-bromo-2-(trifluoromethyl)pyridine | 0.78 mmol, 176 mg | BrC=1C=CC(=NC1)C(F)(F)F | C6H3BrF3N
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4 dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.005 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-{(2S)-5-[6-(trifluoromethyl)-3-pyridinyl]-2,3-dihydro-1H-inden-2-yl}-2-propanesulfonamide | FC(C1=CC=C(C=N1)C=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)(F)F | C18H19F3N2O2S
